US05371093
Slurry 2-amino-6-methoxybenzothiazole (0.255 mol) in water (325 mL), heat to reflux and add 48% hydrobromic acid (130 mL). Maintain at reflux for 20 minutes, cool to 0° C. and add a solution of sodium nitrite (17.56 g, 0.255 mol) in water (90 mL), maintaining a temperature of 0° C. Stir at 0° C. for 15 minutes and add by dropwise addition (while keeping cold) to a rapidly stirring mixture of copper (I) bromide (42.03 g,0.293 mol) in 48% hydrobromic acid (86 mL) and water (225 mL). Stir at room temperature for 20 minutes. Allow to stand overnight, extract into methylene chloride and dry (MgSO4). Evaporate the solvent in vacuo and purify by chromatography to give 2-bromo-6-methoxybenzothiazole.

reactant | 2-amino-6-methoxybenzothiazole | 0.255 mol | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | sodium nitrite | 0.255 mol, 17.56 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 86 mL | Br | BrH
reactant | hydrobromic acid | 130 mL | Br | BrH
solvent | water | 325 mL | O | H2O
solvent | water | 90 mL | O | H2O
solvent | water | 225 mL | O | H2O
catalyst | copper (I) bromide | 0.293 mol, 42.03 g | [Cu]Br
product | 2-bromo-6-methoxybenzothiazole | BrC=1SC2=C(N1)C=CC(=C2)OC | C8H6BrNOS
